data/rdb19/train.csv
rxn,smiles,ea
4518,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:10])([H:11])[H:25])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],29.060205512854736
2805,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:20]([H:27])([H:28])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31],59.32535992574413
232,[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15]([N:14]([C:13](=[C:12]([H:17])[H:18])[H:19])[H:20])([O:16])[H:21])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])[H:8].[C:2]1([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15]([N:14]([C:13](=[C:12]([H:17])[H:18])[H:19])[H:20])([H:21])[O:16]1,48.50884150248021
4002,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([O:7][H:34])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25](=[C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])[H:35])([H:31])([H:32])[H:33],45.29929435550002
376,[C:4](=[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1][O:2][C:11]1([H:19])[C:6]([C:5](=[C:4]([H:12])[H:13])[H:14])=[C:7]([H:15])[C:8]([H:16])=[C:9]([H:17])[C:10]1([H:3])[H:18],40.19184499705443
4010,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([H:10])([H:11])([H:12])[H:34].[C:24]([C:25](=[C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])[H:35])([H:31])([H:32])[H:33].[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14],83.85708783491282
3736,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:17]([H:24])([H:25])[H:26])([H:10])[H:11])([H:7])([H:8])[H:9],60.08194186468609
572,[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1][H:2]>>[C:3]([C:4]([C:5]([C:6]([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1]([H:2])[H:17],6.661658227269072
4053,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:28])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22][C:23](=[O:24])[H:29])[H:27])([H:25])[H:26],23.675652740872465
2834,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:23]([N:22]([C:21](=[C:20]([H:25])[H:26])[H:27])[H:28])([O:24])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]1([H:7])[C:23]([N:22]([C:21](=[C:20]([H:25])[H:26])[H:27])[H:28])([H:29])[O:24]1)([H:13])[H:14])([H:10])([H:11])[H:12].[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16],42.2327085705474
3143,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([C:25]([H:26])[H:27])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])([H:26])[H:27],23.65982577990508
